US05420128
7-Hydroxy-3-(4-phenylthiophenyl)pyrazolo[1,5-a]pyrimidine
A mixture of 9.32 g of 7-hydroxy-6-carboxy-3-(4-phenylthiophenyl)pyrazolo[1,5-a]pyrimidine and 68 ml of aniline was heated and stirred at 80° C. for 1.5 hours to react. To the reaction mixture, 300 ml of water was added, and while ice-cooling, hydrochloric acid was added to adjust the pH to 1 to 2. Adding 100 ml of methanol, the mixture was stirred for 30 minutes while ice-cooling, and the precipitate was filtered, washed in cold water-methanol (3:1), and dried, and the title compound was obtained (8.17 g).

reactant | 7-hydroxy-6-carboxy-3-(4-phenylthiophenyl)pyrazolo[1,5-a]pyrimidine | 9.32 g | OC1=C(C=NC=2N1N=CC2C2=CC=C(C=C2)SC2=CC=CC=C2)C(=O)O | C19H13N3O3S
reactant | aniline | 68 ml | NC1=CC=CC=C1 | C6H7N
reactant | water | 300 ml | O | H2O
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 100 ml | CO | CH4O
product | 7-Hydroxy-3-(4-phenylthiophenyl)pyrazolo[1,5-a]pyrimidine | OC1=CC=NC=2N1N=CC2C2=CC=C(C=C2)SC2=CC=CC=C2 | C18H13N3OS
